US07419988B2
Preparation of 4-[3-(4-N-phenylcarbamylaminophenyl)-1-ethyl-1H-pyrazol-4-yl]-2-[3-(dimethylaminomethyl)phenyl]-1H-pyrrolo[2,3-b]pyridine
To a stirred solution of 4-[3-(4-aminophenyl)-1-ethyl-1H-pyrazol-4-yl]-2-[3-(dimethylaminomethyl)phenyl]-1H-pyrrolo[2,3-b]pyridine (0.34 mmol) in tetrahydrofuran (5 mL) was added phenyl isocyanate (0.41 mmol) and two drops of Et3N. The reaction was stirred at room temperature for 1 h and concentrated to dryness under vacuum. The remaining solid was triturated with (1:1) diethyl ether:petroleum ether, filtered, and dried under vacuum. Purification by Gilson reverse phase HPLC gave the title compound as an off-white solid (44%). ESMS (M+H)+: 556.4

reactant | 4-[3-(4-aminophenyl)-1-ethyl-1H-pyrazol-4-yl]-2-[3-(dimethylaminomethyl)phenyl]-1H-pyrrolo[2,3-b]pyridine | 0.34 mmol | NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC(=C2)C2=CC(=CC=C2)CN(C)C)CC | C27H28N6
reactant | phenyl isocyanate | 0.41 mmol | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | Et3N | two drops | CCN(CC)CC | C6H15N
product | 4-[3-(4-N-phenylcarbamylaminophenyl)-1-ethyl-1H-pyrazol-4-yl]-2-[3-(dimethylaminomethyl)phenyl]-1H-pyrrolo[2,3-b]pyridine | 44% | CCN1C=C(C(=N1)C2=CC=C(C=C2)NC(=O)NC3=CC=CC=C3)C4=C5C=C(NC5=NC=C4)C6=CC(=CC=C6)CN(C)C | C34H33N7O
